US06025370
In 10 ml of methylene chloride was suspended 0.28 g of ethyl 1-cyclopropyl-8-difluoromethoxy-7-[7-methoxy-2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate, and the suspension was cooled to -30° C., after which 1.3 ml of 1.0 M solution of boron tribromide in methylene chloride was added dropwise thereto over a period of 5 minutes, and the resulting mixture was stirred at 0° C. for 2 hours. The reaction mixture was added to a mixed solvent of 10 ml of chloroform and 10 ml of water, and the organic layer was separated. The organic layer obtained was washed with water, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a column chromatography (eluent; chloroform:acetone=5:1) and the crystals thus obtained were suspended in 1.5 ml of ethanol and 1.5 ml of dioxane, after which 0.74 ml of a 1N aqueous sodium hydroxide solution was added thereto and the resulting mixture was stirred at 60° C. for 30 minutes. To the reaction mixture was added 0.74 ml of 1N hydrochloric acid and the crystals were collected by filtration to obtain 0.12 g of light-brown 1-cyclopropyl-8-difluoromethoxy-7-[7-hydroxy-2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | ethyl 1-cyclopropyl-8-difluoromethoxy-7-[7-methoxy-2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.28 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CN(CC2=C(C1)OC)S(=O)(=O)C1=CC=C(C=C1)C)=O)C(=O)OCC | C32H30F2N2O7S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 0.74 ml | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclopropyl-8-difluoromethoxy-7-[7-hydroxy-2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.12 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CN(CC2=C(C1)O)S(=O)(=O)C1=CC=C(C=C1)C)=O)C(=O)O | C29H24F2N2O7S
